US08236826B2
Production of 3-{3-methoxy-4-[methyl(5-nitropyridin-2-yl)amino]phenyl}-1-(4-piperonylpiperazin-1-yl)propan-1-one
To a solution of ethyl 3-{3-methoxy-4-[methyl-(5-nitropyridin-2-yl)amino]phenyl}propionate (3.85 g, 11 mmol) in ethanol (80 mL) was added 2 N aqueous sodium hydroxide (6.4 mL, 13 mmol), and the resulting solution was stirred at room temperature for 2.5 hours. To the resulting reaction solution was added 6 N hydrochloric acid (2.2 mL, 13 mmol), and the solvent was removed under reduced pressure. To the residue were added THF (80 mL) and N,N′carbonyldiimidazole (2.08 g, 13 mmol), and the resulting solution was stirred at room temperature for 3 hours. To the resulting reaction solution were added 1-piperonylpiperazine (2.60 g, 12 mmol) and DMF (40 mL), and stirred at room temperature for 21 hours. The solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate), to thereby yield 4.59 g of the title compound.

reactant | ethyl 3-{3-methoxy-4-[methyl-(5-nitropyridin-2-yl)amino]phenyl}propionate | 11 mmol, 3.85 g | COC=1C=C(C=CC1N(C1=NC=C(C=C1)[N+](=O)[O-])C)CCC(=O)OCC | C18H21N3O5
reactant | sodium hydroxide | 13 mmol, 2 N, 6.4 mL | [OH-].[Na+]
reactant | hydrochloric acid | 13 mmol, 6 N, 2.2 mL | Cl | ClH
reactant | 1-piperonylpiperazine | 12 mmol, 2.60 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-{3-methoxy-4-[methyl(5-nitropyridin-2-yl)amino]phenyl}-1-(4-piperonylpiperazin-1-yl)propan-1-one | COC=1C=C(C=CC1N(C1=NC=C(C=C1)[N+](=O)[O-])C)CCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C28H31N5O6
